US07169810B2
(b) (2S)-2-Ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoic acid
Ethyl (2S)-2-ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoate (1.05 g, 2.527 mmol) was dissolved in THF (20 ml). Under stirring, lithium hydroxide (78.7 mg, 3.285 mmol) in water (10 ml) was added in. The mixture was stirred at room temperature overnight. It was evaporated in vacuum to remove THF. The residue was extracted with diethyl ether. The obtained water phase was acidified with 10% hydrochloric acid, pH -3 and then extracted with ethyl acetate (×2). The organic phases were combined and washed with water and brine and dried with magnesium sulfate. The solvent was evaporated in vacuum. The desired product (926 mg) was obtained, yield 95%.

reactant | Ethyl (2S)-2-ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoate | 2.527 mmol, 1.05 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C23H29NO6
reactant | lithium hydroxide | 3.285 mmol, 78.7 mg | [OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (2S)-2-Ethoxy-3-{4-[4-(4-nitrophenyl)butoxy]phenyl}propanoic acid | 926 mg, yield 95% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)OCCCCC1=CC=C(C=C1)[N+](=O)[O-] | C21H25NO6
